US04335048
A suspension of 5-[2-(tetrahydropyran-2-yloxy)propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid (0.12 g) in ethanol (3 ml), water (2 ml) and concentrated hydrochloric acid (1 drop) was stirred for 15 minutes at ambient temperature. The mixture was then extracted with chloroform (3×20 ml) and the chloroform extracts bulked, dried and evaporated in vacuo. The residue was crystallised from acetone giving 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid m.g. 134°-135° C.

reactant | 5-[2-(tetrahydropyran-2-yloxy)propoxy]-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid | 0.12 g | O1C(CCCC1)OC(COC1=CC=C(C2=C1C(C=C(O2)C(=O)O)=O)CCC)C | C21H26O7
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | hydrochloric acid | 1 drop | Cl | ClH
product | 5-(2-hydroxypropoxy)-4-oxo-8-propyl-4H-1-benzopyran-2-carboxylic acid | OC(COC1=CC=C(C2=C1C(C=C(O2)C(=O)O)=O)CCC)C | C16H18O6
